US04438128
1-Phenoxy-3-[2-(1,3,5-trimethylpyrimidine-2,4-dion-6-yl-N-methylamino)-ethyl-N'-methylamino]-propan-2-ol
4.7 g. 4-Chloro-1,3,5-trimethylpyrimidine-2,6(1H,3H)-dione and 6.0 g. 1-phenoxy-3-(2-methylaminoethyl-N-methylamino)-propan-2-ol (b.p. 138°-142° C./0.01 mm.Hg; obtained from phenyl glycidyl ether and N,N'-dimethylethylenediamine) are stirred for 72 hours at 80° C. in 10 ml. pyridine. The reaction mixture is then dissolved in methylene chloride, washed with water, dried and chromatographed on silica gel using, as elution agent, methylene chloride-methanol (20:1 v/v). By evaporation of the pure fractions, there are obtained 3.0 g. (31% of theory) of the desired product in the form of an almost colorless oil.

reactant | 4-Chloro-1,3,5-trimethylpyrimidine-2,6(1H,3H)-dione | ClC=1N(C(N(C(C1C)=O)C)=O)C | C7H9ClN2O2
reactant | 1-phenoxy-3-(2-methylaminoethyl-N-methylamino)-propan-2-ol | O(C1=CC=CC=C1)CC(CN(C)CCNC)O | C13H22N2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Phenoxy-3-[2-(1,3,5-trimethylpyrimidine-2,4-dion-6-yl-N-methylamino)-ethyl-N'-methylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CN(C)CCN(C)C1=C(C(N(C(N1C)=O)C)=O)C)O | C20H30N4O4
